US07851490B2
1-{1-[3-(2,4-Dimethoxy-pyrimidin-5-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethylamine
A solution of N-(1-{1-[3-(2,4-dimethoxy-pyrimidin-5-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethyl)-formamide (0.53 g, 1.31 mmol) in hydrochloric acid (2.2 ml, 6M) was stirred at 60° C. for 3 hours. To the cooled solution was added ethyl acetate and aqueous sodium carbonate to basic reaction. The layers were separated and the organic layer was dried over magnesium sulphate and concentrated in vacuo. The concentrate was eluted through silica gel with a mixture of dichloromethane, methanol and aqueous ammonia (9:1:0.1 v/v/v) to afford the desired product (0.12 g, 25%). LC-ESI-HRMS of [M+H]+ shows 376.1794 Da. Calc. 376.17735 Da. dev. 5.4 ppm.

reactant | N-(1-{1-[3-(2,4-dimethoxy-pyrimidin-5-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethyl)-formamide | 1.31 mmol, 0.53 g | COC1=NC=C(C(=N1)OC)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)NC=O | C22H21N5O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 6M, 2.2 ml | Cl | ClH
product | 1-{1-[3-(2,4-Dimethoxy-pyrimidin-5-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethylamine | 0.12 g, 25% | COC1=NC=C(C(=N1)OC)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)N | C21H21N5O2
